*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.003/0.003


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_3333_2000
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 67.0405
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 67.0405
cd_0_0_0_0 nd_1_0_666_666_ci 0 2.98327e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 568.935
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 568.935
cd_0_0_0_1 nd_1_0_2000_666_ci 0 3.51534e-12
rdload_0_0_0_2 nd_1_0_3333_666 0 240.155
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 240.155
cd_0_0_0_2 nd_1_0_3333_666_ci 0 8.32794e-12
rdload_0_0_0_3 nd_1_0_4666_666 0 46.0287
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 46.0287
cd_0_0_0_3 nd_1_0_4666_666_ci 0 4.34511e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 41.4338
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 41.4338
cd_0_0_0_4 nd_1_0_6000_666_ci 0 4.82698e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 91.3116
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 91.3116
cd_0_0_0_5 nd_1_0_7333_666_ci 0 2.1903e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 56.8863
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 56.8863
cd_0_0_0_6 nd_1_0_8666_666_ci 0 3.51579e-11
rdload_0_0_0_7 nd_1_0_666_2000 0 220.018
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 220.018
cd_0_0_0_7 nd_1_0_666_2000_ci 0 9.09017e-12
rdload_0_0_0_8 nd_1_0_2000_2000 0 146.5
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 146.5
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 1.36518e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 108.115
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 108.115
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 1.84989e-11
rdload_0_0_0_10 nd_1_0_4666_2000 0 37.1529
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 37.1529
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 5.38316e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 342.623
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 342.623
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 5.83732e-12
rdload_0_0_0_12 nd_1_0_7333_2000 0 193.33
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 193.33
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 1.0345e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 43.9717
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 43.9717
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 4.54838e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 103.024
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 103.024
cd_0_0_0_14 nd_1_0_666_3333_ci 0 1.9413e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 82.7157
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 82.7157
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 2.41792e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 53.6817
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 53.6817
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 3.72566e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 179.718
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 179.718
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 1.11285e-11
rdload_0_0_0_18 nd_1_0_6000_3333 0 123.942
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 123.942
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 1.61366e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 96.5867
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 96.5867
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 2.07068e-11
rdload_0_0_0_20 nd_1_0_8666_3333 0 35.7908
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 35.7908
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 5.58803e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 51.5173
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 51.5173
cd_0_0_0_21 nd_1_0_666_4666_ci 0 3.88219e-11
rdload_0_0_0_22 nd_1_0_2000_4666 0 161.541
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 161.541
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 1.23807e-11
rdload_0_0_0_23 nd_1_0_3333_4666 0 42.0829
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 42.0829
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 4.75252e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 38.2926
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 38.2926
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 5.22294e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 35.2254
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 35.2254
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 5.67772e-11
rdload_0_0_0_26 nd_1_0_7333_4666 0 21979.7
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 21979.7
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 9.09929e-14
rdload_0_0_0_27 nd_1_0_8666_4666 0 147.755
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 147.755
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 1.35359e-11
rdload_0_0_0_28 nd_1_0_666_6000 0 41.0135
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 41.0135
cd_0_0_0_28 nd_1_0_666_6000_ci 0 4.87645e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 37.5645
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 37.5645
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 5.32418e-11
rdload_0_0_0_30 nd_1_0_3333_6000 0 34.4056
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 34.4056
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 5.81301e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 1515.69
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 1515.69
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 1.31954e-12
rdload_0_0_0_32 nd_1_0_6000_6000 0 136.266
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 136.266
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 1.46772e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 40.2252
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 40.2252
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 4.97201e-11
rdload_0_0_0_34 nd_1_0_8666_6000 0 82.8969
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 82.8969
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 2.41264e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 70.1192
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 70.1192
cd_0_0_0_35 nd_1_0_666_7333_ci 0 2.85229e-11
rdload_0_0_0_36 nd_1_0_2000_7333 0 825.572
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 825.572
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 2.42256e-12
rdload_0_0_0_37 nd_1_0_3333_7333 0 127.922
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 127.922
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 1.56345e-11
rdload_0_0_0_38 nd_1_0_4666_7333 0 99.7544
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 99.7544
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 2.00492e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 81.2506
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 81.2506
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 2.46152e-11
rdload_0_0_0_40 nd_1_0_7333_7333 0 33.3029
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 33.3029
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 6.00548e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 58.6426
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 58.6426
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 3.41049e-11
rdload_0_0_0_42 nd_1_0_666_8666 0 118.892
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 118.892
cd_0_0_0_42 nd_1_0_666_8666_ci 0 1.6822e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 93.6077
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 93.6077
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 2.13658e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 35.4754
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 35.4754
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 5.63772e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 65.2243
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 65.2243
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 3.06634e-11
rdload_0_0_0_46 nd_1_0_6000_8666 0 460.246
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 460.246
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 4.3455e-12
rdload_0_0_0_47 nd_1_0_7333_8666 0 112.969
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 112.969
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 1.7704e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 90.4805
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 90.4805
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 2.21042e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val134'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val135'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val136'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val137'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val138'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val139'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val140'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val141'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val142'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'
rd_add8 nd8 0 'esr21'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'




*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_666_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_666_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_666_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_666_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_666_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_2000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_2000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3333_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3333_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3333_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3333_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3333_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3333_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3333_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3333_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3333_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3333_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4666_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4666_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4666_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4666_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4666_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_6000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_6000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7333_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7333_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7333_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7333_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7333_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8666_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8666_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8666_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8666_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8666_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_8666_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_8666_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_8666_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_8666_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_8666_8666  0.001

.ends chiplet3
