*-- interposer tsv subckt model
*.subckt int_tsv pad bump rval=0.04 lval=38e-12 cval=0.24e-12

.subckt int_tsv pad bump rval=5.6e-3 lval=30e-12 cval=0.24e-12
rtsv pad mid 'rval'
ltsv mid bump 'lval'
cins mid 0 'cval'
.ends int_tsv
