*.subckt uc_rl p1 p2 rvalue=34.2m lvalue=0.63p
.subckt uc_rl p1 p2 rvalue=68.4m lvalue=1.26p
rp1 p1 0 1e12
r p1 m 'rvalue'
l m p2 'lvalue'
rp2 p2 0 1e12
.ends sub_rl

